US07709479B1
Trifluoroacetic acid (1.00 ml, 13.1 mmol) was added to a suspension of 4-(4-(N-Boc-amino)anilino)-6-methoxy-7-(3-morpholinopropoxy)quinazoline dihydrochloride (100 mg, 0.172 mmol) in dichloromethane (2.0 ml) and the reaction stirred for 1 hour at ambient temperature. The solvents were removed in vacuo, the residue was suspended in water (2.0 ml) and saturated aqueous sodium bicarbonate solution (4.0 ml) was added. The aqueous phase was extracted with dichloromethane (3×10 ml) and the combined organic layers were washed with brine (25 ml) and evaporated in vacuo. Drying of the solid in vacuo yielded 4-(4-aminoanilino)-6-methoxy-7-(3-morpholinopropoxy)quinazoline (53 mg, 75% yield) as a white solid:

reactant | Trifluoroacetic acid | 13.1 mmol, 1.00 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 4-(4-(N-Boc-amino)anilino)-6-methoxy-7-(3-morpholinopropoxy)quinazoline dihydrochloride | 0.172 mmol, 100 mg | Cl.Cl.C(=O)(OC(C)(C)C)NC1=CC=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2CCOCC2)C=C1
solvent | dichloromethane | 2.0 ml | ClCCl | CH2Cl2
product | 4-(4-aminoanilino)-6-methoxy-7-(3-morpholinopropoxy)quinazoline | 53 mg, 75% yield | NC1=CC=C(NC2=NC=NC3=CC(=C(C=C23)OC)OCCCN2CCOCC2)C=C1 | C22H27N5O3
